US09371320B2
B) 4-(1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide
To a solution of 4-(1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonarnide (61.2 mg) in acetonitrile (10 mL) were added sodium iodide (49.3 mg) and chloro(trimethyl)silane (0.166 mL), and the mixture was stirred at 60° C. for 30 min. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and the obtained solid was washed with ethyl acetate to give the title compound (53.4 mg).

reactant | 4-(1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonarnide | 61.2 mg | C1(CCCC1)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)S(=O)(=O)N | C18H20N4O3S
reactant | sodium iodide | 49.3 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 0.166 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-(1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide | 53.4 mg | C1(CCCC1)N1N=C(C=2C(NC=CC21)=O)C2=CC=C(C=C2)S(=O)(=O)N | C17H18N4O3S
